US07199147B2
Methyl 1-benzyl-5-oxo-3-pyrrolidinecarboxylate (2.00 g, 8.57 mmol) was dissolved in a mixed solvent of methanol (10 ml) and tetrahydrofuran (10 ml), followed by adding thereto a 2N aqueous lithium hydroxide solution (8.6 ml, 17.2 mmol), and the resulting mixture was heated under reflux for 20 minutes. After completion of the reaction, the reaction solution was ice-cooled, made into an acidic solution with an aqueous potassium hydrogensulfate solution, and then extracted with ethyl acetate. The ethyl acetate layer was concentrated, washed by repulping (ethyl acetate/hexane), and then dried to obtain 1-benzyl-5-oxo-3-pyrrolidinecarboxylic acid (1.83 g, 97%).

reactant | Methyl 1-benzyl-5-oxo-3-pyrrolidinecarboxylate | 8.57 mmol, 2.00 g | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)OC | C13H15NO3
reactant | lithium hydroxide | 17.2 mmol, 2N, 8.6 ml | [OH-].[Li+]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-benzyl-5-oxo-3-pyrrolidinecarboxylic acid | 1.83 g, 97% | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)O | C12H13NO3
